* Z:\mnt\design.r\spice\examples\3954.asc
C1 N004 0 1µ
L1 IN N001 22µ
R1 N002 N006 1Meg
R2 N006 0 37.4K
D1 N001 N002 MBRS360
R3 N002 N008 .38
C2 N002 0 4.7µ x3
V1 IN 0 PWL(0 0 .2m 16)
R4 IN N003 499K
R5 N003 0 147K
C3 N014 0 4700p
C4 N013 0 .01µ
R6 N009 0 28.7K
D2 N008 N011 LXK2-PW14
C5 N015 0 47n
M§Q1 N011 N010 0 0 IRF1310
V2 N012 0 4
R7 N012 N013 124K
R8 IN N007 1Meg
R9 N007 0 165K
XU1 N005 N015 NC_01 N013 N009 N003 N004 IN N001 N010 N010 N006 N008 N002 N014 N007 0 0 0 LT3954
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 25m startup
.lib LT3954.sub
.backanno
.end
